US07872014B2
(3-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-2,5-difluorophenyl) acetonitrile (0.353 g, 1.25 mmol) was dissolved in dimethylformamide (3 mL) and potassium fluoride (0.145 g, 2.50 mmol) was added followed by chloromethyl methyl ether (0.117 mL, 1.54 mmol). The mixture was stirred at room temperature for 0.2 h and then was partitioned between ethyl acetate and water. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford an oil which was purified by column chromatography (ethyl acetate-hexanes 1:6) to afford (2,5-difluoro-3-{[(methyloxy)methyl]oxy}phenyl)acetonitrile as a light brown solid (0.253 g, 1.19 mmol, 95% yield). 1H NMR (400 MHz, CDCl3): 7.05-6.93 (m, 1H), 6.87-6.77 (m, 1H), 5.22 (s, 2H), 3.76 (s, 2H), 3.51 (s, 3H); GCMS for C10H9NO2: 213 (M+).

reactant | (3-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-2,5-difluorophenyl) acetonitrile | 1.25 mmol, 0.353 g | CC(C)(C)[Si](OC=1C(=C(C=C(C1)F)CC#N)F)(C)C | C14H19F2NOSi
reactant | potassium fluoride | 2.50 mmol, 0.145 g | [F-].[K+]
reactant | chloromethyl methyl ether | 1.54 mmol, 0.117 mL | COCCl | C2H5ClO
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (2,5-difluoro-3-{[(methyloxy)methyl]oxy}phenyl)acetonitrile | 1.19 mmol, 0.253 g, 95% yield | FC1=C(C=C(C=C1OCOC)F)CC#N | C10H9F2NO2
